US09260440B2
(R)-Methyl 2-(2-methylpyrrolidin-2-yl)-1H-indole-4-carboxylate (190 mg, 0.74 mmol) was dissolved in CH3CN (25 ml) and methylbromoacetate (250 mg, 1.6 mmol). DIPEA (350 mg, 2.7 mmol) was then added. The reaction mixture was stirred at room temperature for about 20 hours. The reaction mixture was then diluted with CH2Cl2 (15 ml) and washed with water three times. The organic layer was dried with MgSO4 and concentrated to give 146 mg of (R)-methyl 2-(1-(2-methoxy-2-oxoethyl)-2-methylpyrrolidin-2-yl)-1H-indole-4-carboxylate. 1H NMR (CDCl3-d) δ 7.85 (d, 1H, J=7.8 Hz), 7.13-7.29 (m, 3H), 4.92 (s, 2H), 3.95 (s, 3H), 3.70 (s, 3H), 3.56-3.62 (m, 2H), 1.95-2.06 (m, 4H), and 1.94 (s, 3H). MS (ESI) m/e [M+1]+ 331.0.

reactant | (R)-Methyl 2-(2-methylpyrrolidin-2-yl)-1H-indole-4-carboxylate | 0.74 mmol, 190 mg | C[C@]1(NCCC1)C=1NC=2C=CC=C(C2C1)C(=O)OC | C15H18N2O2
reactant | methylbromoacetate | 1.6 mmol, 250 mg | COC(CBr)=O | C3H5BrO2
reactant | DIPEA | 2.7 mmol, 350 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 25 ml | CC#N | C2H3N
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | (R)-methyl 2-(1-(2-methoxy-2-oxoethyl)-2-methylpyrrolidin-2-yl)-1H-indole-4-carboxylate | 146 mg | COC(CN1[C@@](CCC1)(C)C=1NC=2C=CC=C(C2C1)C(=O)OC)=O | C18H22N2O4
